US05051427
To methanesulfonyl chloride (0.002 mol) and triethylamine (0.002 mol) in dichloromethane (40 ml) at 0° C. is added 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol (0.0018 mol) in dichloromethane (40 ml) dropwise. After 24 hours, the reaction mixture is washed with water, dried and evaporated to give 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol mesylate.

reactant | methanesulfonyl chloride | 0.002 mol | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.002 mol | C(C)N(CC)CC | C6H15N
reactant | 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol | 0.0018 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(CO)C=CC2)C=C1 | C24H21NO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol mesylate | S(C)(=O)(=O)OCC1=CC(=CC=C1)CC1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H23NO4S
